US06852731B2
1-(3-Furyl)-2-(methylamino)ethanol [35966-MMC-019-2A]
Trimethylsulfonium iodide (20.4 g) and 3-furaldehyde (8.65 mL) are added to potassium hydroxide (11.2 g) and H2O (0.45 mL) in acetonitrile (150 mL). The reaction mixture is heated to 60° C. for 2.5 h. The reaction mixture is allowed to cool to room temperature. The precipitate is filtered off, and the filtrate is concentrated in vacuo. The resulting crude epoxide (10.747 g) is dissolved in methanol (50 mL) and added to a 2.0 M solution of methylamine in methanol (100 mL). The reaction mixture is stirred at room temperature for 3 d and then heated to reflux for 30 min. The reaction mixture is allowed to cool to room temperature and is concentrated in vacuo. The resulting brown oil was purified via column chromatography (CHCl3/methanol, 95/5, 90/10; CHCl3/methanol/NH4OH, 90/10/1) to yield 2.703 g (19%) of the title compound as a yellow oil.

reactant | Trimethylsulfonium iodide | 20.4 g | [I-].C[S+](C)C
reactant | 3-furaldehyde | 8.65 mL | O1C=C(C=C1)C=O | C5H4O2
reactant | potassium hydroxide | 11.2 g | [OH-].[K+]
reactant | H2O | 0.45 mL | O | H2O
reactant | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 1-(3-Furyl)-2-(methylamino)ethanol | 2.703 g, 19% | O1C=C(C=C1)C(CNC)O | C7H11NO2
